US07427612B2
[4-(2,4-Difluoro-phenyl)-piperazin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone
The title compound was prepared according to the procedure described for example 46 from 2-Morpholin-4-yl-5-nitro-benzoyl chloride and 1-(2,4-difluorophenyl)-piperazine (87%, yellow solid, MS (m/e): 433.4 (M+H, 100%)

reactant | 2-Morpholin-4-yl-5-nitro-benzoyl chloride | N1(CCOCC1)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C11H11ClN2O4
reactant | 1-(2,4-difluorophenyl)-piperazine | FC1=C(C=CC(=C1)F)N1CCNCC1 | C10H12F2N2
product | [4-(2,4-Difluoro-phenyl)-piperazin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone | FC1=C(C=CC(=C1)F)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C21H22F2N4O4
